US08563565B2
(1) Synthesis of ethyl 5-[4-(6-isopropyloxy-2,4-dimethylpyridin-3-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
Ethyl 5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate obtained in Preparation Example 7-(2) (70 mg) was dissolved in a mixed solution of 1,4-dioxane (1 mL) and water (0.2 mL), and 3-bromo-6-isopropyloxy-2,4-dimethylpyridine (41.1 mg), Pd(PPh3)4 (17.7 mg) and cesium carbonate (150 mg) were added. The reaction mixture was stirred at 110° C. overnight. After returning the reaction mixture to room temperature, the reaction mixture was purified by silica gel column chromatography (ethyl acetate/n-heptane, 10 to 50% to 100%) to give the title compound (66.5 mg).

reactant | Ethyl 5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C22H28BN3O7
reactant | 3-bromo-6-isopropyloxy-2,4-dimethylpyridine | 41.1 mg | BrC=1C(=NC(=CC1C)OC(C)C)C | C10H14BrNO
reactant | cesium carbonate | 150 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.2 mL | O | H2O
catalyst | Pd(PPh3)4 | 17.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 5-[4-(6-isopropyloxy-2,4-dimethylpyridin-3-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 66.5 mg | C(C)(C)OC1=CC(=C(C(=N1)C)C1=CC(=C(C=C1)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)[N+](=O)[O-])C | C26H30N4O6
